US08981085B2
(R)-tert-Butyl 4-(3-(tert-butoxycarbonylamino)piperidin-1-yl)-5-cyclopropyl-3-isobutyramido-1H-pyrrolo[2,3-b]pyridine-1-carboxylate (0.150 g, 0.277 mmol) was placed in DCM (5 mL). TFA (1 mL) was then added, and the reaction was stirred at room temperature for 1 hour and concentrated to dryness. The resulting product was dissolved in minimal DCM (with MeOH to aid solubility) and added to a stirred solution of 1M HCl in ether. The resulting solid was filtered, washed with ether and dried to give (R)—N-(4-(3-aminopiperidin-1-yl)-5-cyclopropyl-1H-pyrrolo[2,3-b]pyridin-3-yl)isobutyramide hydrochloride (0.085 g, 74% yield) as a solid. 1H NMR (400 MHz, D2O) δ 7.88 (s, 1H), 7.25 (s, 1H), 3.96-3.93 (m, 1H) 3.53-3.49 (m, 1H) 3.42-3.37 (m, 2H), 3.32-3.27 (m, 1H), 3.22-3.17 (m, 1H), 2.70-3.63 (m, 1H), 2.14-2.12 (m, 1H), 1.89-1.86 (m, 1H), 1.80-1.77 (m, 1H), 1.69-1.66 (m, 1H), 1.54-1.52 (m, 1H), 1.12-1.09 (m, 6H), 0.99-0.96 (m, 2H), 0.66-0.62 (m, 2H); LCMS (APCI+) m/z 342 (M+H)+.

reactant | (R)-tert-Butyl 4-(3-(tert-butoxycarbonylamino)piperidin-1-yl)-5-cyclopropyl-3-isobutyramido-1H-pyrrolo[2,3-b]pyridine-1-carboxylate | 0.277 mmol, 0.150 g | C(C)(C)(C)OC(=O)N[C@H]1CN(CCC1)C1=C2C(=NC=C1C1CC1)N(C=C2NC(C(C)C)=O)C(=O)OC(C)(C)C | C29H43N5O5
reactant | TFA | 1 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | DCM | 5 mL | C(Cl)Cl | CH2Cl2
product | (R)—N-(4-(3-aminopiperidin-1-yl)-5-cyclopropyl-1H-pyrrolo[2,3-b]pyridin-3-yl)isobutyramide hydrochloride | 0.085 g, 74% yield | Cl.N[C@H]1CN(CCC1)C1=C2C(=NC=C1C1CC1)NC=C2NC(C(C)C)=O | InChI=1S/C19H27N5O.ClH/c1-11(2)19(25)23-15-9-22-18-16(15)17(14(8-21-18)12-5-6-12)24-7-3-4-13(20)10-24;/h8-9,11-13H,3-7,10,20H2,1-2H3,(H,21,22)(H,23,25);1H/t13-;/m1./s1
